US07632857B2
(4′-Ethanesulfonyl-biphenyl-4-yl)-(2-(S)-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone
The title compound is prepared starting with (4-Bromo-phenyl)-(2-(S)-pyrrolidin-1-ylmethyl-pyrrolidin-yl)methanone and 4-ethanesulfonylphenyl boronic acid perform a procedure analogous to Procedure FF. MS (m/e): 427.2 (M+1)

reactant | (4-Bromo-phenyl)-(2-(S)-pyrrolidin-1-ylmethyl-pyrrolidin-yl)methanone | BrC1=CC=C(C=C1)C(=O)N1[C@@H](CCC1)CN1CCCC1 | C16H21BrN2O
reactant | 4-ethanesulfonylphenyl boronic acid | C(C)S(=O)(=O)C1=CC=C(C=C1)B(O)O | C8H11BO4S
product | (4′-Ethanesulfonyl-biphenyl-4-yl)-(2-(S)-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone | C(C)S(=O)(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)N1[C@@H](CCC1)CN1CCCC1 | C24H30N2O3S
